US08022205B2
4-Chloro-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine
In the same manner as Example 1-B-01, from 4-[4,6-dichloro-5-(2-chloroethyl)-pyrimidin-2-yl]-morpholine (1.25 g) and 3-aminopyridine (1.97 g), the desired compound (pale yellow powder, 1.07 mg, 88%) was obtained.

reactant | 4-[4,6-dichloro-5-(2-chloroethyl)-pyrimidin-2-yl]-morpholine | 1.25 g | ClC1=NC(=NC(=C1CCCl)Cl)N1CCOCC1 | C10H12Cl3N3O
reactant | 3-aminopyridine | 1.97 g | NC=1C=NC=CC1 | C5H6N2
product | 4-Chloro-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | 1.07 mg, 88% | ClC=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C=2C=NC=CC2 | C15H16ClN5O
